US05639770
A reaction was conducted in the same manner as in Example 1, by using 6-(1,2,4-triazol-1-yl)-2-(α-bromoacetyl)pyridine and 3,4-diethoxythiobenzamide, to obtain 2-(3,4-diethoxyphenyl)-4-[6-(1,2,4-triazol-1-yl)-2-pyridyl]thiazole.

reactant | 6-(1,2,4-triazol-1-yl)-2-(α-bromoacetyl)pyridine | N1(N=CN=C1)C1=CC=CC(=N1)C(CBr)=O | C9H7BrN4O
reactant | 3,4-diethoxythiobenzamide | C(C)OC=1C=C(C(=S)N)C=CC1OCC | C11H15NO2S
product | 2-(3,4-diethoxyphenyl)-4-[6-(1,2,4-triazol-1-yl)-2-pyridyl]thiazole | C(C)OC=1C=C(C=CC1OCC)C=1SC=C(N1)C1=NC(=CC=C1)N1N=CN=C1 | C20H19N5O2S
